US07049438B2
4-(6-chloro-2,3-methylenedioxyanilino)-7-piperidin-4-ylmethoxy-5-tetrahydropyran-4-yloxyquinazoline
A mixture of 7-[N-(tert-butoxycarbonyl)piperidin-4-ylmethoxy]-4-(6-chloro-2,3-methylenedioxyanilino)-5-tetrahydropyran-4-yloxyquinazoline (0.25 g), trifluoroacetic acid (1 ml) and methylene chloride (1 ml) was stirred at ambient temperature for 1.5 hours. The mixture was evaporated and the residue was purified by column chromatography on silica using a 93:7 mixture of methylene chloride and a saturated methanolic ammonia solution as eluent. The material so obtained was partitioned between ethyl acetate and an aqueous ammonium hydroxide solution. The organic layer was dried over magnesium sulphate and evaporated. There was thus obtained the title compound (0.07 g); NMR Spectrum: (CDCl3 and D2O) 1.5–1.7 (m, 2H), 1.9–2.1 (m, 4H), 2.2–2.3 (m, 2H), 2.8 (m, 2H), 3.32 (d, 2H), 3.65 (m, 2H), 3.9–4.1 (m, 3H), 4.8 (m, 1H), 6.08 (s, 2H), 6.52 (br s, 1H), 6.72 (d, 1H), 6.8 (s, 1H), 6.98 (d, 1H), 8.5 (s, 1H); Mass Spectrum: M+H+ 513 and 515.

reactant | 7-[N-(tert-butoxycarbonyl)piperidin-4-ylmethoxy]-4-(6-chloro-2,3-methylenedioxyanilino)-5-tetrahydropyran-4-yloxyquinazoline | 0.25 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=CC(=C2C(=NC=NC2=C1)NC1=C2C(=CC=C1Cl)OCO2)OC2CCOCC2 | C31H37ClN4O7
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 4-(6-chloro-2,3-methylenedioxyanilino)-7-piperidin-4-ylmethoxy-5-tetrahydropyran-4-yloxyquinazoline | 0.07 g | ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=CC(=C13)OC1CCOCC1)OCC1CCNCC1)OCO2 | C26H29ClN4O5
